US08377923B2
3-chloro-N′-{2-methyl-2-[4-(trifluoromethyl)phenoxy]propanoyl}isonicotinohydrazide (282 mg) was dissolved in dichloromethane (5 ml) and pyridine (130 μl) was added thereto. The reaction solution was cooled to −10° C., trifluoromethanesulfonic anhydride (230 μl) was added thereto, followed by standing to warm to room temperature and then stirring overnight. The reaction solution was diluted with saturated aqueous sodium bicarbonate, the organic layer was separated and the aqueous layer was extracted with chloroform. The combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain 3-chloro-4-(5-{1-methyl-1-[4-(trifluoromethyl)phenoxy]ethyl}-1,3,4-oxadiazol-2-yl)pyridine (231 mg) as a light yellow solid.

reactant | 3-chloro-N′-{2-methyl-2-[4-(trifluoromethyl)phenoxy]propanoyl}isonicotinohydrazide | 282 mg | ClC1=C(C(=O)NNC(C(C)(OC2=CC=C(C=C2)C(F)(F)F)C)=O)C=CN=C1 | C17H15ClF3N3O3
reactant | pyridine | 130 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 230 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-chloro-4-(5-{1-methyl-1-[4-(trifluoromethyl)phenoxy]ethyl}-1,3,4-oxadiazol-2-yl)pyridine | 231 mg | ClC=1C=NC=CC1C=1OC(=NN1)C(C)(OC1=CC=C(C=C1)C(F)(F)F)C | C17H13ClF3N3O2
